US06589977B1
To a solution of 2,3-bis(1-methyl-1H-indol-3-yl)-N-methylmaleimide (50 mg, 0.14 mmol) in DMF (1 mL) was added a small amount of 10% palladium-carbon, and the whole was stirred at room temperature for 1 day under hydrogen atmosphere. The palladium-carbon was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane=2:1) to obtain 1-methyl-3,4-bis(1-methyl-1H-indol-3-yl)-2,5-dioxopyrrolidine (28 mg, 55.7%) as pale red solids. 1H-NMR(CDCl3): δ 3.28(s, 3H), 3.44(s, 6H), 4.81(s, 2H), 6.63(s, 2H), 6.85-7.00(m, 2H), 7.04-7.11(m, 4H), 7.22-7.26(m, 2H).

reactant | 2,3-bis(1-methyl-1H-indol-3-yl)-N-methylmaleimide | 0.14 mmol, 50 mg | CN1C=C(C2=CC=CC=C12)C=1C(=O)N(C(C1C1=CN(C2=CC=CC=C12)C)=O)C | C23H19N3O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | palladium-carbon | [C].[Pd]
product | 1-methyl-3,4-bis(1-methyl-1H-indol-3-yl)-2,5-dioxopyrrolidine | 28 mg, 55.7% | CN1C(C(C(C1=O)C1=CN(C2=CC=CC=C12)C)C1=CN(C2=CC=CC=C12)C)=O | C23H21N3O2
